US05935959
Using 1,1-dimethylethyl 2-(4-(4-chlorophenyl)-1-piperazinyl)-2-oxo-1-(2-methylpropyl)ethylcarbamate in lieu of 1,1-dimethylethyl 2-(4-(4-fluorophenyl)-1-piperazinyl)-2-oxo-1-(phenylmethyl)ethylcarbamate, the procedure of Reference Example 13 was otherwise repeated to provide 1-(2-amino-4-methyl-1-oxopentyl)-4-(4-chlorophenyl)piperazine hydrochloride (1.50 g, 65.3%) as white crystals.

reactant | 1,1-dimethylethyl 2-(4-(4-chlorophenyl)-1-piperazinyl)-2-oxo-1-(2-methylpropyl)ethylcarbamate | ClC1=CC=C(C=C1)N1CCN(CC1)C(C(CC(C)C)NC(OC(C)(C)C)=O)=O | C21H32ClN3O3
reactant | 1,1-dimethylethyl 2-(4-(4-fluorophenyl)-1-piperazinyl)-2-oxo-1-(phenylmethyl)ethylcarbamate | FC1=CC=C(C=C1)N1CCN(CC1)C(C(CC1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C24H30FN3O3
product | 1-(2-amino-4-methyl-1-oxopentyl)-4-(4-chlorophenyl)piperazine hydrochloride | 1.50 g, 65.3% | Cl.NC(C(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl)CC(C)C | InChI=1S/C16H24ClN3O.ClH/c1-12(2)11-15(18)16(21)20-9-7-19(8-10-20)14-5-3-13(17)4-6-14;/h3-6,12,15H,7-11,18H2,1-2H3;1H
